US08383838B2
A suspension of sodiumhydride in paraffin (0.42 g, 60%) was added to 4 ml of dimethylcarbonate. To this suspension 8-Ethyl-3,4-dihydro-2H-benzo[b]oxepin-5-one (5.3 mmol) dissolved in 2 ml dimethylcarbonate was added dropwise at room temperature. The mixture was refluxed for two hours, cooled to room temperature and stirred overnight. 25 ml of 2 mol/l hydrochloric acid were added to the mixture. The resulting solution was extracted by ethyl acetate. The organic phase was dried over sodiumsulfate and the solvent removed in vacuo. 8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester was obtained as a brown oil in a yield of 87%. LC-MS: 2.2 min, 249.0 (MH+), 2.7 min, 249.0 (MH+)

reactant | sodiumhydride | [H-].[Na+]
reactant | 8-Ethyl-3,4-dihydro-2H-benzo[b]oxepin-5-one | 5.3 mmol | C(C)C=1C=CC2=C(OCCCC2=O)C1 | C12H14O2
reactant | hydrochloric acid | 2 mol/l, 25 ml | Cl | ClH
reactant | dimethylcarbonate | 2 ml | COC(OC)=O | C3H6O3
reactant | dimethylcarbonate | 4 ml | COC(OC)=O | C3H6O3
product | 8-Ethyl-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester | yield of 87% | COC(=O)C1C(C2=C(OCC1)C=C(C=C2)CC)=O | C14H16O4
